US08067445B2
Step 2: (2S,3S,4S,5R,6S)-6-{2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetoxy}-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester
[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid (0.110 g, 0.2 mmol), (2S,3S,4S,5R,6R)-3,4,5,6-tetrahydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester (0.060 g, 0.2 mmol), HATU (0.026 g, 0.2 mmol), and N-methylmorpholine-N-oxide (0.05 mL, 0.4 mmol) were combined in MeCN (2 mL) and stirred for 2 days at room temperature. The mixture was concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | 0.2 mmol, 0.110 g | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O)=O | C27H27F3N2O4
reactant | (2S,3S,4S,5R,6R)-3,4,5,6-tetrahydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester | 0.2 mmol, 0.060 g | C(C1=CC=CC=C1)OC(=O)[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1O)O)O)O | C13H16O7
reactant | HATU | 0.2 mmol, 0.026 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine-N-oxide | 0.4 mmol, 0.05 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | MeCN | 2 mL | CC#N | C2H3N
product | (2S,3S,4S,5R,6S)-6-{2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetoxy}-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1O)O)O)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C40H41F3N2O10
